US03963675
12 drops of 85% phosphoric acid were added to a mixture, cooled to -15°C in a laboratory autoclave, of 76 g of 3-isopropenyl-1-methyl-2-methylene-cyclopentan-1-ol and 72 g of ethyl vinyl ether. After gassing with argon, the autoclave was brought, in an oil bath of 180°C, to an internal temperature of 150°C (this took about 15 minutes) and held at this temperature until a distinct drop in pressure occurred (about 100 minutes). The reaction mixture was then quenched, taken up in ether, washed with aqueous bicarbonate solution and water, the solution dried over anhydrous magnesium sulphate and concentrated under reduced pressure. The crude product (110 g), obtained as a yellow oil, was fractionated and yielded 61 g (68%) of pure 2-(2-formylethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene having a woody, earthy fragrance; boiling point 0.2 = 64°-65°C; nD20 = 1.4888; IRfilm : μmax = 3080, 2725, 1725, 1642, 1440, 1370, 1060 and 895 cm-1.

reactant | 3-isopropenyl-1-methyl-2-methylene-cyclopentan-1-ol | 76 g | C(=C)(C)C1C(C(CC1)(O)C)=C | C10H16O
reactant | ethyl vinyl ether | 72 g | C(=C)OCC | C4H8O
catalyst | phosphoric acid | 12 drops | P(O)(O)(O)=O | H3O4P
product | 2-(2-formylethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene | 61 g, 68% | C(=O)CCC1=C(CCC1C(=C)C)C | C12H18O
